US06071927
Methyl 3-Bromo-4-(difluoromethoxy)benzoate
Ethyl chlorodifluoroacetate (1.12 ml, 8.7 mmol) was added to a mixture of methyl 3-bromo-4-hydroxybenzoate (Description 64, 2.0 g, 8.7 mmol) and potassium carbonate (1.2 g, 8.7 mmol) in N,N-dimethylformamide (20 ml) and the mixture was heated at 65° C. for 16 h. The mixture was cooled, water (100 ml) was added and the mixture was extracted with ethyl acetate (2×100 ml). The combined organic fractions were dried (Na2SO4) and the solvent was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel, eluting with hexane/EtOAc (95:5) to give the title compound as a colorless solid (1.20 g, 49%). 1H NMR (250 MHz, CDCl3) δ8.31 (1 H, d, J 2.0 Hz), 8.22 (1 H, dd, J 8.5, 2.0 Hz), 7.05 (1 H, m), 6.61 (1 H, t, J 73 Hz), and 3.93 (3 H, s).

reactant | Ethyl chlorodifluoroacetate | 8.7 mmol, 1.12 ml | ClC(C(=O)OCC)(F)F | C4H5ClF2O2
reactant | methyl 3-bromo-4-hydroxybenzoate | 8.7 mmol, 2.0 g | BrC=1C=C(C(=O)OC)C=CC1O | C8H7BrO3
reactant | potassium carbonate | 8.7 mmol, 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Methyl 3-Bromo-4-(difluoromethoxy)benzoate | 1.20 g, 49% | BrC=1C=C(C(=O)OC)C=CC1OC(F)F | C9H7BrF2O3
